US04649146
To a solution of ethyl 2-methylamino-5-propionyl-4-thiazolecarboxylate (7.4 g) and 30% hydrogen bromide acetic acid (10 ml) in acetic acid (50 ml) was added pyridinium hydrobromide perbromide (13.0 g) at ambient temperature and the mixture was stirred for an hour. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo to afford a crystalline residue, which was recrystallized from a mixture of ethyl acetate and diisopropyl ether to give ethyl 2-methylamino-5-(2-bromopropionyl)-4-thiazolecarboxylate (7.4 g).

reactant | ethyl 2-methylamino-5-propionyl-4-thiazolecarboxylate | 7.4 g | CNC=1SC(=C(N1)C(=O)OCC)C(CC)=O | C10H14N2O3S
reactant | hydrogen bromide acetic acid | 10 ml | C(C)(=O)O.Br
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-methylamino-5-(2-bromopropionyl)-4-thiazolecarboxylate | 7.4 g | CNC=1SC(=C(N1)C(=O)OCC)C(C(C)Br)=O | C10H13BrN2O3S
